US06379590B1
Preparation of 2-(2-mercapto-7-nitro-9-fluorenyl)-1,3-dioxolane
For a period of 0.5 hours, 10 parts of sodium sulfide nonahydrate was added to a solution of 6 parts of 2-(2,7-dinitro-9-fluorenyl)-1,3-dioxolane in 300 parts of dimethylformamide contained within a 1 liter flask at room temperature. The mixture was then stirred for 20 hours, diluted with 1000 parts of methylene chloride, and washed with water in the amount of 4 parts water: 1000 parts methylene chloride.

reactant | sodium sulfide nonahydrate | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 2-(2,7-dinitro-9-fluorenyl)-1,3-dioxolane | [N+](=O)([O-])C1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])C1OCCO1 | C16H12N2O6
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(2-mercapto-7-nitro-9-fluorenyl)-1,3-dioxolane | SC1=CC=2C(C3=CC(=CC=C3C2C=C1)[N+](=O)[O-])C1OCCO1 | C16H13NO4S
